US05229379
0.43 g of lithium hydroxide monohydrate in 6 ml of water is added to a solution of 2.0 g of 3-[N-(p-chlorobenzyl)-N-methylamino]propyl(diethoxymethyl)phosphinic acid ethyl ester in 5.5 ml of ethanol, and the mixture is heated at 60° for 25 hours. The reaction mixture is cooled to room temperature, the solvent is removed under reduced pressure, and the evaporation residue is taken up in water and neutralised with phosphoric acid. The suspension formed is concentrated to dryness by evaporation, and the residue is taken up in hot methanol, filtered and concentrated by evaporation again. Crystallisation of the residue from propanol yields 3-[N-(p-chlorobenzyl)-N-methylamino]propyl(diethoxymethyl)phosphinic acid having a melting point of 170°-171.5°.

reactant | lithium hydroxide monohydrate | 0.43 g | O.[OH-].[Li+]
reactant | 3-[N-(p-chlorobenzyl)-N-methylamino]propyl(diethoxymethyl)phosphinic acid ethyl ester | 2.0 g | C(C)OP(=O)(C(OCC)OCC)CCCN(C)CC1=CC=C(C=C1)Cl | C18H31ClNO4P
solvent | water | 6 ml | O | H2O
solvent | ethanol | 5.5 ml | C(C)O | C2H6O
product | 3-[N-(p-chlorobenzyl)-N-methylamino]propyl(diethoxymethyl)phosphinic acid | ClC1=CC=C(CN(C)CCCP(O)(=O)C(OCC)OCC)C=C1 | C16H27ClNO4P
